* C:\Users\user\Desktop\python_spice\cfl_lamp\cfl_equiv.asc
R1 N001 0 5.978e3
D1 N003 N001 D
D2 N004 N001 D
D3 0 N003 D
D4 0 N004 D
C1 N001 0 3.62e-6
R2 N002 N003 49.6
V1 N002 N004 SINE(0 177 60)
.model D D
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 200e-3 0 1.25e-5 uic
.backanno
.end
